US07294618B2
4-[(4-Ethylphenyl)methyl]-1-(4-fluorophenyl)-5-methyl-1,2-dihydro-3H-pyrazol-3-one
The title compound was prepared in a similar manner to that described in Example 1 using 1-bromo-4-ethylbenzene and 3-benzyloxy-1-(4-fluorophenyl)-4-formyl-5-methyl-1H-pyrazole instead of 4-bromoanisole and 3-benzyloxy-4-formyl-5-methyl-1-phenyl-1H-pyrazole, respectively.

reactant | 1-bromo-4-ethylbenzene | BrC1=CC=C(C=C1)CC | C8H9Br
reactant | 3-benzyloxy-1-(4-fluorophenyl)-4-formyl-5-methyl-1H-pyrazole | C(C1=CC=CC=C1)OC1=NN(C(=C1C=O)C)C1=CC=C(C=C1)F | C18H15FN2O2
reactant | 3-benzyloxy-4-formyl-5-methyl-1-phenyl-1H-pyrazole | C(C1=CC=CC=C1)OC1=NN(C(=C1C=O)C)C1=CC=CC=C1 | C18H16N2O2
product | 4-[(4-Ethylphenyl)methyl]-1-(4-fluorophenyl)-5-methyl-1,2-dihydro-3H-pyrazol-3-one | C(C)C1=CC=C(C=C1)CC=1C(NN(C1C)C1=CC=C(C=C1)F)=O | C19H19FN2O
